US04666911
Into 600 ml of tetrahydrofuran, were dissolved 41 g of 1-formylpiperazine and 54.5 g of triethylamine. To the solution, while being stirred and cooled in ice, was added dropwise 56 g of 2,4,4-trimethylallophanyl chloride. The mixture was allowed to react at room temperature for 6 hours and the precipitate was removed by filtration. The filtrate was concentrated and the residue was recrystallized from tetrahydrofuran to obtain 41 g of 1-formyl-4-(2,4,4-trimethylallophanoyl)piperazine. This compound was mixed with 800 ml of 6N hydrochloric acid and the mixture was heated with stirring at 60° C. for one hour. The reaction mixture was concentrated and the residue was recrystallized from ethanol to obtain 35.2 g of 1-(2,4,4-trimethylallophanoyl)piperazine hydrochloride having a melting point of 215° C.

reactant | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
reactant | 1-formylpiperazine | 41 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | 2,4,4-trimethylallophanyl chloride | 56 g | CN(C(=O)Cl)C(=O)N(C)C | C5H9ClN2O2
solvent | triethylamine | 54.5 g | C(C)N(CC)CC | C6H15N
product | 1-formyl-4-(2,4,4-trimethylallophanoyl)piperazine | 41 g | C(=O)N1CCN(CC1)C(N(C(=O)N(C)C)C)=O | C10H18N4O3
